US07582123B2
Synthesis of 1,5-dimethyl-4-{[(1Z)-3-methyl-4-oxocyclohexa-2,5-dien-1-ylidene]amino}-2-phenyl-1,2-dihydro-3H-pyrazol-3-one
10 mmol of 4-amino-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one was dissolved in 30 ml of water. This solution was admixed with 10 mmol of o-cresol in solution in 30 ml of 2-propanol, 3 ml of 20% aqueous ammonia and 22 mmol of potassium ferricyanide at a temperature ranging from 5 to 10° C.

reactant | 4-amino-1,5-dimethyl-2-phenyl-1,2-dihydro-3H-pyrazol-3-one | 10 mmol | NC=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C11H13N3O
reactant | o-cresol | 10 mmol | C1(=CC=CC=C1O)C | C7H8O
reactant | ammonia | 3 ml | N | H3N
solvent | water | 30 ml | O | H2O
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
catalyst | potassium ferricyanide | 22 mmol | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 1,5-dimethyl-4-{[(1Z)-3-methyl-4-oxocyclohexa-2,5-dien-1-ylidene]amino}-2-phenyl-1,2-dihydro-3H-pyrazol-3-one | CN1N(C(C(=C1C)\N=C\1/C=C(C(C=C1)=O)C)=O)C1=CC=CC=C1 | C18H17N3O2
